US07442797B2
Preparation of 2-(3-bromophenyl)pyridine
A mixture of 2-bromopyridine (2.5 g, 15.8 mmol), 3-bromophenol (5.5 g, 31.6 mmol) and potassium carbonate (2.2 g, 15.8 mmol) was stirred at 200° C. for 3 hours. After the reaction mixture was allowed to cool, to which was then added an aqueous 1 mol/L sodium hydroxide solution, the mixture was extracted with dichloromethane, the solvent was distilled off, and the residue was purified by silica gel column chromatography and recrystallization, thereby obtaining 2.9 g of desired compound as white crystal.

reactant | 2-bromopyridine | 15.8 mmol, 2.5 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3-bromophenol | 31.6 mmol, 5.5 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 15.8 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
product | 2-(3-bromophenyl)pyridine | 2.9 g, Yield: 73.2% | BrC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8BrN
